US04248875
The acid chloride of 2-isopropyl-4-chloro-4-phenyl-3-butenoic acid is reacted with (6-phenoxy-2-pyridyl)methanol using the procedure of Example 1 to give (6-phenoxy-2-pyridyl)methyl 2-isopropyl-4-chloro-4-phenyl-3-butenoate.

reactant | 2-isopropyl-4-chloro-4-phenyl-3-butenoic acid | C(C)(C)C(C(=O)O)C=C(C1=CC=CC=C1)Cl | C13H15ClO2
reactant | (6-phenoxy-2-pyridyl)methanol | O(C1=CC=CC=C1)C1=CC=CC(=N1)CO | C12H11NO2
product | (6-phenoxy-2-pyridyl)methyl 2-isopropyl-4-chloro-4-phenyl-3-butenoate | C(C)(C)C(C(=O)OCC1=NC(=CC=C1)OC1=CC=CC=C1)C=C(C1=CC=CC=C1)Cl | C25H24ClNO3
